US07129268B2
To a solution of 3,3-bis-(2-furanyl)-prop-2-en-1-ol (104 mg, 0.55 mmol) and triphenylphosphine (275 mg, 1.09 mmol) in THF (10 ml) was added, at room temperature and under nitrogen atmosphere, DEAD (190 mg, 1.09 mmol). The reaction mixture was stirred for 5 min after which (2-trifluoromethyl4-mercapto-phenoxy)-acetic acid ethyl ester (230 mg, 0.82 mmol) was added over 15 min. The reaction mixture was stirred at 0oC for 2 hours followed by 18 hours at room temperature and 3 hours at 50° C. The reaction mixture was evaporated and the crude residue was purified on column chromatography using ethyl acetate as eluent. The desired {4-[3,3-bis-(2-furanyl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid ethyl ester was isolated in 11 mg yield.

reactant | 3,3-bis-(2-furanyl)-prop-2-en-1-ol | 0.55 mmol, 104 mg | O1C(=CC=C1)C(=CCO)C=1OC=CC1 | C11H10O3
reactant | triphenylphosphine | 1.09 mmol, 275 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.09 mmol, 190 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (2-trifluoromethyl4-mercapto-phenoxy)-acetic acid ethyl ester | 0.82 mmol, 230 mg | C(C)OC(COC1=C(C=C(C=C1)S)C(F)(F)F)=O | C11H11F3O3S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | {4-[3,3-bis-(2-furanyl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SCC=C(C=1OC=CC1)C=1OC=CC1)C(F)(F)F)=O | C22H19F3O5S
